US05753682
a. 4(2-Methylimidazol-1-yl)benzyl alcohol
To a stirred solution of the crude 4-(2-methylimidazol-1-yl)benzaldehyde (1.0 g) in methanol(15 ml) cooled to 0° C. was added NaBH4 (0.2 g, 5.2 mmol) in portions over 15 min and the whole stirred for 1 h. A saturated aqueous NH4Cl solution (50 ml) was added to the reaction mixture and the whole extracted with ethyl acetate (100 ml×2). The organic layer was washed with water (100 ml), brine (50 ml), dried over MgSO4, and solvent removed under reduced pressure. The crude product was washed with an Et2O/ethyl acetate mixture (3:1, 15 ml) to give the title compound (0.51 g, 50 %) as a white powder. 1H NMR (CDCl3) δ: 7.5 (d, 2H, J=8 Hz), 7.28 (d, 2H, J=8 Hz), 7.01 (d, 1H, J=1 Hz), 6.99 (d, 1H, J=1 Hz), 4.78 (s, 2H), 2.35 (s, 3H).

reactant | 4-(2-methylimidazol-1-yl)benzaldehyde | 1.0 g | CC=1N(C=CN1)C1=CC=C(C=O)C=C1 | C11H10N2O
reactant | NaBH4 | 5.2 mmol, 0.2 g | [BH4-].[Na+]
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | methanol | 15 ml | CO | CH4O
product | 4(2-Methylimidazol-1-yl)benzyl alcohol | 0.51 g, 50 % | CC=1N(C=CN1)C1=CC=C(CO)C=C1 | C11H12N2O
